US08202990B2
In a round bottom flask, ethyl 3-(dibenzylamino)-2,2-difluoropropanoate (1.72 g, 5.2 mmol) was solubilized in EtOH (25 mL) and TFA added (0.4 mL, 5.5 mmol). Under an atmosphere of nitrogen Pd(OH)2/C (170 mg of 20% Pd by wt. wet) was added. The reaction mixture was repeatedly purged with nitrogen and then left under hydrogen overnight. At this point the reaction was deemed complete by LCMS, filtered through a pad of Celite, the pad washed with EtOH and the filtrate concentrated without heating to yield ethyl 3-amino-2,2-difluoropropanoate, as its TFA salt, as a foggy syrup which starts to crystallize upon standing (1.31 g, 94% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.29 (t, J=7.20 Hz, 3 H) 3.72 (t, J=16.17 Hz, 2 H) 4.34 (q, J=7.24 Hz, 2 H). [M+H] calc'd for C5H9F2NO2, 154; found 154.

reactant | ethyl 3-(dibenzylamino)-2,2-difluoropropanoate | 5.2 mmol, 1.72 g | C(C1=CC=CC=C1)N(CC(C(=O)OCC)(F)F)CC1=CC=CC=C1 | C19H21F2NO2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | EtOH | 25 mL | CCO | C2H6O
product | ethyl 3-amino-2,2-difluoropropanoate | 94% yield | NCC(C(=O)OCC)(F)F | C5H9F2NO2
